US05962458
2-Fluoro-5-methoxycarbonyloxy-4-methylaniline (883 mg, 4.4 mmol), (prepared as described for the starting material in Example 12), was added to a solution of 7-benzyloxy4-chloroquinazoline hydrochloride (1 g, 3.7 mmol) in 2-pentanol (15 ml) at 120° C. and the mixture was then heated at reflux for 4 hours. The mixture was allowed to cool and the precipitate was collected by filtration, washed with isopropanol followed by ether and dried under vacuum to give 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride (1.65 g, 97%) as a cream solid. m.p. 219-220° C.

reactant | 2-Fluoro-5-methoxycarbonyloxy-4-methylaniline | 4.4 mmol, 883 mg | FC1=C(N)C=C(C(=C1)C)OC(=O)OC | C9H10FNO3
reactant | 7-benzyloxy4-chloroquinazoline hydrochloride | 3.7 mmol, 1 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)Cl
solvent | 2-pentanol | 15 ml | CC(CCC)O | C5H12O
product | 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride | 1.65 g, 97% | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F | InChI=1S/C24H20FN3O4.ClH/c1-15-10-19(25)21(12-22(15)32-24(29)30-2)28-23-18-9-8-17(11-20(18)26-14-27-23)31-13-16-6-4-3-5-7-16;/h3-12,14H,13H2,1-2H3,(H,26,27,28);1H
